US06777567B2
Preparation of dimethyl 2-methylsuccinate
4.73 mg (0.0126 mmol) of [Rh(NBD)2]BF4 and 8.55 mg (0.0133 mmol) of B2a are placed in a flask provided with a magnetic stirrer and blanketed with argon by repeatedly evacuating the flask and flushing it with argon. 5 ml of degassed methanol are then added and the mixture is stirred for 15 minutes. 0.4 g (2.53 mmol) of dimethyl itaconate and 5 ml of degassed methanol are subsequently introduced into a 10 ml Schlenk flask filled with an argon atmosphere. Stirring is continued until a homogeneous solution is formed. The solution is injected by means of a steel capillary into a 180 ml glass reactor filled with argon. Finally, 1.05 bar of hydrogen are introduced in three flushing cycles (argon 1 bar/hydrogen 1 bar). The hydrogenation is started by switching on the stirrer and is carried out at 25° C. The course of the reaction is followed via the hydrogen consumption (pressure decrease in the hydrogen reservoir). After a reaction time of 20 hours, the conversion is found to be complete. The enantiomeric purity of dimethyl 2-methyl succinate is 94.6% of (R).

reactant | dimethyl itaconate | 2.53 mmol, 0.4 g | C(C(=C)CC(=O)OC)(=O)OC | C7H10O4
reactant | hydrogen | [H][H] | H2
reactant | hydrogen 1 | [1HH] | H2
solvent | methanol | 5 ml | CO | CH4O
product | dimethyl 2-methylsuccinate | CC(C(=O)OC)CC(=O)OC | C7H12O4
